US06037474
Preparation of 2-butyl-1,3-diaza-spiro[4.4]nonan-4-one (DSPC)
Ammonia solution (20%; 20 g, 0.30 mol.) is added to a solution of 126 g of 1-aminocyclopentanecarboxamide (>98%, 0.98 mol.) in 150 g of water. 86 g of valeraldehyde (0.99 mol.) are then added at 15° C., during which the temperature rises to 32° C. The reaction mixture is heated to 70° C. and stirred for 7 hours at that temperature. 350 ml of MIBK are added to the emulsion, and the mixture is cooled, with stirring, and the organic phase is separated off. The extract is extensively concentrated by evaporation (200 g), and 200 g of n-hexane are added, and the crystals are filtered off. After drying there remain 125 g of 2-butyl-1,3-diaza-spiro [4.4]nonan4-one (HPLC: 98.6%).

reactant | Ammonia | 0.30 mol, 20 g | N | H3N
reactant | 1-aminocyclopentanecarboxamide | 0.98 mol, 126 g | NC1(CCCC1)C(=O)N | C6H12N2O
reactant | valeraldehyde | 0.99 mol, 86 g | C(CCCC)=O | C5H10O
reactant | MIBK | 350 ml | CC(C)CC(=O)C | C6H12O
solvent | water | 150 g | O | H2O
product | 2-butyl-1,3-diaza-spiro[4.4]nonan-4-one | C(CCC)C1NC2(C(N1)=O)CCCC2 | C11H20N2O
